US06133258
The reaction procedure of Example 11 was followed except that 646 mg of 2-(4-trifluoromethylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 18 mg of lithium hydride and 0.24 ml of benzyl bromide were used. As a result, 630 mg of 3-benzyl-2-[(4-trifluoromethylphenyl)imino]-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained.

reactant | 2-(4-trifluoromethylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 646 mg | FC(C1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1)(F)F | C14H8F3N3OS
reactant | lithium hydride | 18 mg | [H-].[Li+]
reactant | benzyl bromide | 0.24 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-benzyl-2-[(4-trifluoromethylphenyl)imino]-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 630 mg | C(C1=CC=CC=C1)N1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C=C2)C(F)(F)F | C21H14F3N3OS
